US07202381B2
A. {1-(4-tert-Butoxy-benzyl)-2-oxo-2-[2-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester
To a mixture of 0.20 g (0.88 mmol) of 2-(5-phenyl-oxazol-2-yl)-piperidine, 0.36 g (1.05 mmol) of 2-tert-Butoxycarbonylamino-3-(4-tert-butoxy-phenyl)-propionic acid, 0.49 g (1.05 mmol) of PyBrop and 0.287 mL of diisopropylethylamine was added 1 ml of dimethylformamide. The resulting mixture was allowed to stir under argon at room temperature overnight. The following morning, LC analysis indicated that about 20% of starting material remained. An additional 0.09 g (0.26 mmol) of 2-tert-Butoxycarbonylamino-3-(4-tert-butoxy-phenyl)-propionic acid, 0.12 g (0.26 mmol) of PyBrop and 0.072 ml (0.45 mmol) of diisopropylethylamine was added. After stirring for 3 hours, the mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, dried over magnesium sulfate and concentrated. The product was taken to the next step as is without further purification.

reactant | 2-(5-phenyl-oxazol-2-yl)-piperidine | 0.88 mmol, 0.20 g | C1(=CC=CC=C1)C1=CN=C(O1)C1NCCCC1 | C14H16N2O
reactant | 2-tert-Butoxycarbonylamino-3-(4-tert-butoxy-phenyl)-propionic acid | 1.05 mmol, 0.36 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C18H27NO5
reactant | PyBrop | 1.05 mmol, 0.49 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.287 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-tert-Butoxycarbonylamino-3-(4-tert-butoxy-phenyl)-propionic acid | 0.26 mmol, 0.09 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C18H27NO5
reactant | PyBrop | 0.26 mmol, 0.12 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.45 mmol, 0.072 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | {1-(4-tert-Butoxy-benzyl)-2-oxo-2-[2-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(N1C(CCCC1)C=1OC(=CN1)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC(C)(C)C)=O | C32H41N3O5
